US08426447B2
A 25-mL flask was charged with (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (437.24 mg, 1.244 mmol), cesium carbonate (446 mg, 1.369 mmol), and DMF (6222 μL). The resulting mixture was stirred for 10 min, then the vial was submerged in an ice-bath for 10 min. nonafluorobutanesulfonyl fluoride (241 μL, 1.369 mmol) was added dropwise over 1 min. The mixture was stirred for 3 hours before being diluted with water (20 mL) and a small amount of brine. This mixture was extracted with EtOAc (2×20 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on an 80-g Redi-Sep column, eluting with 0-60% of a 90:10 mixture of DCM/MeOH in DCM to give (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate as a white solid.

reactant | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 1.244 mmol, 437.24 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
reactant | cesium carbonate | 1.369 mmol, 446 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 6222 μL | CN(C)C=O | C3H7NO
reactant | nonafluorobutanesulfonyl fluoride | 1.369 mmol, 241 μL | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
solvent | water | 20 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C#CC(C)(C)O)F | C23H16F9N3O6S
